US05011947
3,3,3-Trifluoro-1,1-bis(4-fluorophenyl)-2-methylpropene
Lithium (1.94 g, 280 mmol) was added to a suspension of titanium trichloride (12.3 g, 80 mmol) in 250 mL tetrahydrofuran. After the initial exothermic reaction had subsided, the mixture was heated at reflux for 2 hours. After cooling to 25° C. a solution of 4,4'-difluorobenzophenone (2.18 g, 10 mmol) and 1,1,1-trifluoroacetone (4.48 g, 40 mmol) in 30 mL tetrahydrofuran was added and the mixture stirred for 2 hours. The mixture was then refluxed for 20 hours. The mixture was cooled and diluted with 30 mL of hexane and the insolubles removed by filtration through diatomaceous earth. The solution was concentrated in vacuo and the residue purified by chromatography on silica eluting with hexane to give 0.7 g of the title compound as an oil. MS(CI): m/e =298 for M+ of C16H11F5.

reactant | Lithium | 280 mmol, 1.94 g | [Li] | Li
reactant | 4,4'-difluorobenzophenone | 10 mmol, 2.18 g | FC1=CC=C(C(=O)C2=CC=C(C=C2)F)C=C1 | C13H8F2O
reactant | 1,1,1-trifluoroacetone | 40 mmol, 4.48 g | FC(C(=O)C)(F)F | C3H3F3O
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | hexane | 30 mL | CCCCCC | C6H14
catalyst | titanium trichloride | 80 mmol, 12.3 g | [Cl-].[Cl-].[Cl-].[Ti+3]
product | 3,3,3-Trifluoro-1,1-bis(4-fluorophenyl)-2-methylpropene | 0.7 g | FC(C(=C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)C)(F)F | C16H11F5
